US08748452B2
To a solution of 4-methoxypyridine (3.0 g) in ethyl acetate (30 mL) was added methyl bromoacetate (4.6 g), and the mixture was heated under reflux overnight. After cooling to room temperature, the precipitated solid was collected by filtration, and dried under reduced pressure to give 4-methoxy-1-methoxycarbonylmethylpyridinium bromide (7.0 g). To a solution of the obtained compound (6.0 g) in toluene (50 mL) were added acrylonitrile (6.1 g), manganese dioxide (6.0 g) and triethylamine (2.8 g), and the mixture was stirred at 100° C. for 5 hours. The reaction mixture was filtered through a Celite pad, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give 1-cyano-7-methoxyindolizine-3-carboxylic acid methyl ester (1.0 g). To a mixed solution of the obtained compound (1.0 g) in tetrahydrofuran (20 mL), ethanol (7 mL) and water (7 mL) was added lithium hydroxide monohydrate (0.27 g), and the mixture was stirred at room temperature overnight. To the reaction mixture were added 1 mol/L hydrochloric acid and water, and the precipitated solid was collected by filtration, washed with water and n-hexane, and dried under reduced pressure at 50° C. to give the 1-cyano-7-methoxyindolizine-3-carboxylic acid (0.80 g). To a suspension of the obtained compound (0.80 g) and quinoline (8 mL) was added copper (0.05 g), and the mixture was stirred at 220° C. for 30 minutes. After cooling to room temperature, to the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid, water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.37 g).

reactant | 4-methoxypyridine | 3.0 g | COC1=CC=NC=C1 | C6H7NO
reactant | methyl bromoacetate | 4.6 g | BrCC(=O)OC | C3H5BrO2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-1-methoxycarbonylmethylpyridinium bromide | 7.0 g | [Br-].COC1=CC=[N+](C=C1)CC(=O)OC | InChI=1S/C9H12NO3.BrH/c1-12-8-3-5-10(6-4-8)7-9(11)13-2;/h3-6H,7H2,1-2H3;1H/q+1;/p-1
